US07091215B2
7-Bromo-2-ethyl-4-methoxypyrazolo[1,5-a]pyridine
n-Butyllithium (1.31 mL) was slowly added dropwise to a solution of 2-ethyl-4-methoxypyrazolo[1,5-a]pyridine (303 mg) in tetrahydrofuran (15 mL) at −78° C. After stirring the mixture at −78° C. for 1 hour, 1,2-dibromoethane (0.18 mL) was added and stirring was continued for 1 hour. Saturated aqueous ammonium chloride was added, extraction was performed with ethyl acetate, the extract was washed with brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (20 g), and the title compound (282 mg) was obtained from the n-hexane:ethyl acetate (5:1) fraction as a colorless oil.

reactant | n-Butyllithium | 1.31 mL | C(CCC)[Li]
reactant | 2-ethyl-4-methoxypyrazolo[1,5-a]pyridine | 303 mg | C(C)C1=NN2C(C(=CC=C2)OC)=C1 | C10H12N2O
reactant | 1,2-dibromoethane | 0.18 mL | BrCCBr | C2H4Br2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 7-Bromo-2-ethyl-4-methoxypyrazolo[1,5-a]pyridine | 282 mg | BrC1=CC=C(C=2N1N=C(C2)CC)OC | C10H11BrN2O
